US08871790B2
Compound 348.3. Methyl 5-amino-6-methylnicotinate
A round-bottom flask, containing a solution of methyl 2-chloro-6-methyl-5-nitronicotinate (12.8 g, 55.5 mmol, 1.00 equiv) in methanol (120 mL) was purged with nitrogen. Triethylamine (15.0 g, 149 mmol, 2.68 equiv) and palladium on carbon (1.30 g) were added. After further purging the flask with nitrogen, the atmosphere was changed to hydrogen and the resulting solution was stirred for 2 days at room temperature under atmospheric pressure. After purging the system with nitrogen, the solids were removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified using silica gel column chromatography with ethyl acetate/petroleum ether (1:50-1:5) as eluent to furnish 3.50 g (38%) of the title compound as a yellow solid.

reactant | methyl 2-chloro-6-methyl-5-nitronicotinate | 55.5 mmol, 12.8 g, 1.00 equiv | ClC1=C(C(=O)OC)C=C(C(=N1)C)[N+](=O)[O-] | C8H7ClN2O4
reactant | Triethylamine | 149 mmol, 15.0 g, 2.68 equiv | C(C)N(CC)CC | C6H15N
solvent | methanol | 120 mL | CO | CH4O
catalyst | palladium on carbon | 1.30 g | [Pd] | Pd
product | Methyl 5-amino-6-methylnicotinate | 3.50 g, 38% | NC=1C(=NC=C(C(=O)OC)C1)C | C8H10N2O2
